US08119692B2
Methyl 4-(4-fluoro-3-methylphenyl)-4-oxobutanoate (Intermediate B1)
To the crude 4-(4-fluoro-3-methyl-phenyl)-4-oxo-butyric acid in 50 mL methanol was added 500 μL concentrated H2SO4 at 25° C. After stirring for 16 h, the mixture was concentrated under reduced pressure and 50 mL water was added. The mixture was extracted with ethyl acetate (3×50 mL) and the combined organic layers washed with brine (2×30 mL) and the product isolated using silica gel chromatography to afford 1.2 g of the title compound as a colorless oil.

reactant | 4-(4-fluoro-3-methyl-phenyl)-4-oxo-butyric acid | FC1=C(C=C(C=C1)C(CCC(=O)O)=O)C | C11H11FO3
reactant | H2SO4 | 500 μL | OS(=O)(=O)O | H2O4S
reactant | methanol | 50 mL | CO | CH4O
product | Methyl 4-(4-fluoro-3-methylphenyl)-4-oxobutanoate | 1.2 g | FC1=C(C=C(C=C1)C(CCC(=O)OC)=O)C | C12H13FO3
